US04983607
95 g (0.8 mol) of thionyl chloride are added dropwise in the course of approximately 1 h to a stirred suspension of 60 g (0.295 mol) of 2-oxo-1,2-dihydro-4-quinolineacetic acid in 1 1 of methanol. The mixture is left overnight. The solvent is driven off and the residue obtained is dissolved in 300 ml of boiling methanol. After the mixture is cooled, 300 ml of ether are added. The solid is drained and then recrystallized in methanol. 51.5 g (80%) of methyl 2-oxo-1,2-dihydro-4-quinolineacetate, melting point 209°-210° C., are obtained

reactant | thionyl chloride | 0.8 mol, 95 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-oxo-1,2-dihydro-4-quinolineacetic acid | 0.295 mol, 60 g | O=C1NC2=CC=CC=C2C(=C1)CC(=O)O | C11H9NO3
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | methanol | 300 ml | CO | CH4O
product | methyl 2-oxo-1,2-dihydro-4-quinolineacetate | 51.5 g, 80% | O=C1NC2=CC=CC=C2C(=C1)CC(=O)OC | C12H11NO3
